US09376392B2
Preparation of (S)-1-(5-bromo-2,7-dimethylquinolin-6-yl)ethane-1,2-diol:
AD-mix-α (8 g, excess) was added to a mixed solvent of t-butanol and water (35 mL/35 mL) and stirred at room temperature for 5 min, cooled to 0° C. 5-bromo-2,7-dimethyl-6-vinylquinoline (678 mg, 2.6 mmol) was added and stirred at 0° C. for 16 hrs. The mixture was diluted with ethyl acetate, washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product. LCMS-ESI+: calc'd for C13H14BrNO2: 296.0 (M+H+); Found: 296.1 (M+H+).

reactant | AD-mix-α | 8 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | water | 35 mL | O | H2O
reactant | 5-bromo-2,7-dimethyl-6-vinylquinoline | 2.6 mmol, 678 mg | BrC1=C2C=CC(=NC2=CC(=C1C=C)C)C | C13H12BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(5-bromo-2,7-dimethylquinolin-6-yl)ethane-1,2-diol | BrC1=C2C=CC(=NC2=CC(=C1[C@@H](CO)O)C)C | C13H14BrNO2
